US07214475B2
Freshly activated magnesium (8.5 g, 0.35 mol) was slowly added over a period of four hours to a solution of 1,4-dibromobenzene (80 g, 0.34 mol) in 200 mL of diethylether, keeping the temperature below 30° C. The reaction mixture was stirred for 8 hours and then slowly added to a mixture of tetrachlorosilane (100 mL, 0.87 mol) in diethylether (50 mL) within 12 hours. The mixture was stirred for 12 hours, and unreacted tetrachlorosilane and diethylether were removed in vacuum. The remaining liquid was fractionally distilled through a Vigreux column under reduced pressure to provide 4-bromophenyltrichlorosilane as an oil (350 μHg/85° C.-37 g/37%). 1HNMR(400 MHz, CDCl3): δ 7.69 (4H, dd). 13CNMR (100 MHz, CDCl3): δ 134.6, 131.9, 130.4, 128.2. GC-MS: 290 (M+).

reactant | magnesium | 0.35 mol, 8.5 g | [Mg] | Mg
reactant | 1,4-dibromobenzene | 0.34 mol, 80 g | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | tetrachlorosilane | 0.87 mol, 100 mL | Cl[Si](Cl)(Cl)Cl | Cl4Si
solvent | diethylether | 200 mL | C(C)OCC | C4H10O
solvent | diethylether | 50 mL | C(C)OCC | C4H10O
product | 4-bromophenyltrichlorosilane | BrC1=CC=C(C=C1)[Si](Cl)(Cl)Cl | C6H4BrCl3Si
